US07884207B2
Under a nitrogen atmosphere triethylamine (3.91 mL, 28.0 mmol) was added to a chilled (0° C.) solution of 2,4-dichloro-3-nitroquinoline (7.22 g, 26.7 mmol) in dichloromethane (100 mL). A solution of 4-(aminomethyl)tetrahydro-2H-thiopyran-4-ol (4.12 g, 28.0 mmol) in dichloromethane (30 mL) was added dropwise. The reaction mixture was stirred at ambient temperature overnight and then concentrated under reduced pressure. The orange residue was combined with saturated aqueous sodium bicarbonate (50 mL) and ethyl acetate (40 mL), sonicated for 10 minutes, and then filtered. The isolated solid was washed extensively with water and then dried to provide 5.63 g of 4-{[(2-chloro-3-nitroquinolin-4-yl)amino]methyl}tetrahydro-2H-thiopyran-4-ol as a yellow solid.

reactant | triethylamine | 28.0 mmol, 3.91 mL | C(C)N(CC)CC | C6H15N
reactant | 2,4-dichloro-3-nitroquinoline | 26.7 mmol, 7.22 g | ClC1=NC2=CC=CC=C2C(=C1[N+](=O)[O-])Cl | C9H4Cl2N2O2
reactant | 4-(aminomethyl)tetrahydro-2H-thiopyran-4-ol | 28.0 mmol, 4.12 g | NCC1(CCSCC1)O | C6H13NOS
solvent | dichloromethane | 100 mL | ClCCl | CH2Cl2
solvent | dichloromethane | 30 mL | ClCCl | CH2Cl2
product | 4-{[(2-chloro-3-nitroquinolin-4-yl)amino]methyl}tetrahydro-2H-thiopyran-4-ol | 5.63 g | ClC1=NC2=CC=CC=C2C(=C1[N+](=O)[O-])NCC1(CCSCC1)O | C15H16ClN3O3S
